ScoreBoard_v.1.0
*SPICE Netlist generated by Advanced Sim server on 05.12.2021 17:16:51
.options MixedSimGenerated

*Schematic Netlist:
CC1 0 NetC1_2 0.1u
RR1 NetR1_1 NetC1_2 1k TC1=0 TC2=0
VV1 NetR1_1 0 5 AC 1 0

.PROBE {V(NetR1_1)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetC1_2)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.AC DEC 10 1K 1G

.END